US08648066B2
A mixture of 2,3,4,5-tetrahydro-1,4-benzoxazepin-7-ylboronic acid hydrochloride salt (1.20 g, 5.2 mmol), 4-chloro-5-(4-fluorobenzyl)-6-methylpyrimidine (reagent preparation 5) (1.24 g, 5.2 mmol), diisopropylethylamine (0.40 mL, 2.10 mmol) 50% aqueous 1,4-dioxane (50 mL) was deoxygenated for five minutes by bubbling nitrogen gas then stirred at 95° C. for 18 hours. The reaction mixture was concentrated, diluted with water (50 mL), adjusted to pH 14, and then washed with isopropyl acetate (3×30 mL). The aqueous mixture was adjusted to pH 8 and the white solid precipitated was collected by filtration, washed with water and dried to give (4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)boronic acid (0.72 g, 35% yield). MS (EI) for C2H21BFN3O3: 394 (MH+).

reactant | 2,3,4,5-tetrahydro-1,4-benzoxazepin-7-ylboronic acid hydrochloride salt | 5.2 mmol, 1.20 g | Cl.O1CCNCC2=C1C=CC(=C2)B(O)O
reactant | 4-chloro-5-(4-fluorobenzyl)-6-methylpyrimidine | 5.2 mmol, 1.24 g | ClC1=NC=NC(=C1CC1=CC=C(C=C1)F)C | C12H10ClFN2
reactant | diisopropylethylamine | 2.10 mmol, 0.40 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | (4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)boronic acid | 0.72 g, 35% yield | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)B(O)O | C21H21BFN3O3
